US08466162B2
A-4) 6-Ethyl-3H-pyrimidin-4-one
90 g (0.58 mol) 4-Hydroxy-2-mercapto-6-ethylpyrimidine and 270 g Raney-Nickel are suspended in water (1000 mL) and the suspension is heated and stirred under reflux over night. The reaction mixture is filtered over celite and the filtrate is concentrated under reduced pressure to give crude product. Yield: 70.0 g (98%).

reactant | 4-Hydroxy-2-mercapto-6-ethylpyrimidine | 0.58 mol, 90 g | OC1=NC(=NC(=C1)CC)S | C6H8N2OS
solvent | water | 1000 mL | O | H2O
catalyst | Raney-Nickel | 270 g | [Ni] | Ni
product | 6-Ethyl-3H-pyrimidin-4-one | C(C)C1=CC(NC=N1)=O | C6H8N2O
